US04107438
4-(p-Fluorophenylsulphinyl)-butyrohydroxamic acid
10.5 g (0.046 mol) of 4-(p-fluorophenylthio)-butyrohydroxamic acid dissolved in 45 ml of acetic acid are oxidised with 4.6 ml of hydrogen peroxide of 110 volumes strength. After 1 hour at 50° C, the mixture is left to stand overnight and is then evaporated to dryness in vacuo. The residue is taken up in ethyl acetate and filtered off.

reactant | 4-(p-fluorophenylthio)-butyrohydroxamic acid | 0.046 mol, 10.5 g | FC1=CC=C(C=C1)SCCCC(=O)NO | C10H12FNO2S
reactant | hydrogen peroxide | 4.6 ml | OO | H2O2
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
product | 4-(p-Fluorophenylsulphinyl)-butyrohydroxamic acid | FC1=CC=C(C=C1)S(=O)CCCC(=O)NO | C10H12FNO3S
